US06969728B2
Step 1) Preparation of 2-Methylsulfanyl-4-pyridin-2-yl-pyrimidine. (Synthetic Intermediate Used in Examples 6, 7, 8 & 15)
To a stirred solution of sodium ethoxide (freshly prepared from sodium metal (5.11 g, 222 mmol) and ethanol (350 mL)) was added 3-dimethylamino-1-pyridin-2-yl-propenone (28.0 g, 159 mmol) and thiourea (12.9 g, 170 mmol). The solution was heated to reflux and stirred for 3 hours. The solution was allowed to cool to room temperature, and then iodomethane (13.8 mL, 222 mmol) was added dropwise over 10 minutes. The solution was stirred at room temperature for 2 hours, and then diluted with saturated ammonium chloride solution (250 mL) and water (250 mL). The suspension was extracted with ethyl ether (200 mL×3), and the combined organic extracts washed with saturated sodium thiosulfate solution (150 mL) and brine (150 mL). The organic phase was dried (magnesium sulfate), filtered, and concentrated to provide 30.1 g (96%) of the product as a brown oil: 1H NMR (CDCl3) δ 8.70-8.69 (m, 1H), 8.64 (d, J=5.2 Hz, 1H), 8.48 (d,J=7.9 Hz, 1H), 8.01 (d, J=5.2 Hz, 1H), 7.87-7.82 (m, 1H), 7.41-7.38 (m, 1H), 2.65 (s, 3H) ppm. 13C NMR (CDCl3) δ 172.6, 163.1, 158.5, 153.9, 149.7, 137.3, 125.7, 122.0, 112.6, 14.5 ppm.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 222 mmol, 5.11 g | [Na] | Na
reactant | 3-dimethylamino-1-pyridin-2-yl-propenone | 159 mmol, 28.0 g | CN(C)/C=C/C(=O)C1=CC=CC=N1 | C10H12N2O
reactant | thiourea | 170 mmol, 12.9 g | NC(=S)N | CH4N2S
reactant | iodomethane | 222 mmol, 13.8 mL | IC | CH3I
solvent | ammonium chloride | 250 mL | [Cl-].[NH4+]
solvent | water | 250 mL | O | H2O
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 2-Methylsulfanyl-4-pyridin-2-yl-pyrimidine | 30.1 g, 96% | CSC1=NC=CC(=N1)C1=NC=CC=C1 | C10H9N3S
